data/mechanisms/records/IMS8-EQ8.46c.json
{"mechanism_id": "IMS8-EQ8.46c", "species": [{"species_id": "hexyloxymethylene_oxocarbenium", "mapped_smiles": "[CH3:12][CH2:11][CH2:10][CH2:9][CH2:8][CH2:7][O+:1]=[CH2:2]", "role": "precursor_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "n_hexyl_cation", "mapped_smiles": "[CH2+:7][CH2:8][CH2:9][CH2:10][CH2:11][CH3:12]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "formaldehyde", "mapped_smiles": "[O:1]=[CH2:2]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["hexyloxymethylene_oxocarbenium"]}, {"state_id": "state_products", "species_ids": ["n_hexyl_cation", "formaldehyde"]}], "steps": [{"step_id": "step_inductive_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [7, 1]}, "target": {"type": "atom", "atom_maps": [1]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_c", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_inductive_cleavage", "support_type": "textbook_proposed", "locator": {"page": 176, "equation": "8.46", "figure": null, "panel": null, "section": "8 Detailed Mechanisms of Ion Fragmentation (Eq. 8.46, two-step path: i-cleavage of the oxocarbenium)"}, "confidence": 0.8, "curator_note": "Second stage of the two-step path in Eq. 8.46: inductive (i) cleavage of the even-electron oxocarbenium C6H13-O(+)=CH2 (m/z 115) losing neutral formaldehyde O=CH2 to give the n-hexyl cation C6H13(+) (m/z 85). The charge site draws the C7-O1 bonding pair onto oxygen; the C7-O1 sigma bond breaks heterolytically and the surviving O1=C2 double bond becomes neutral formaldehyde. Book draws 0 electron-pushing arcs: the vertical 'i' pathway arrow between the m/z-115 and m/z-77% species carries the neutral loss '-O=CH2'; no curved arrow is drawn. The text calls this the 'two-step pathway' to the same m/z-85 ion. Encoded as ONE double-barbed (2-electron) heterolytic arrow onto O1; the validator's soft 'lone pair rather than radicals' note on atom 1 is expected (the arriving pair is a lone pair completing formaldehyde's carbonyl oxygen)."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": null, "activation_method": "70 eV EI (consecutive source fragmentation of the m/z-115 oxocarbenium)", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 115.1112, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_85", "species_id": "n_hexyl_cation", "step_id": "step_inductive_cleavage", "observed_mz": 85.1006, "relative_intensity": 0.77, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.85}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
